US07129239B2
Preparation of Intermediate 9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine-6-carbonitrile (I-(16A-1)a)
6-Chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine I-(1A-1)d (200 mg, 0.49 mmol) was dissolved in acetonitrile (5 ml) and stirred at 0° C. Tetrabutylammonium cyanide (236 mg, 0.98 mmol) and 1,4-diaza-bicyclo[2.2.2]octane (173 mg, 1.5 mmol) were added to the reaction mixture and stirring was continued at 0° C. for 3 hours. The reaction mixture was concentrated under reduced pressure and then purified by flash chromatography using 30% ethyl acetate/hexanes as the eluant to obtain the desired product I-(16A-1)a (215 mg, quant): +ESI MS (M+1) 400.2; 1H NMR (400 MHz, CDCl3) δ 9.09 (s, 1H), 7.57 (d, J=8.7 Hz, 1H), 7.45–7.39 (m, 4H), 7.21 (d, J=8.7 Hz, 2H).

reactant | 6-Chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | 0.49 mmol, 200 mg | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H8Cl4N4
reactant | 1,4-diaza-bicyclo[2.2.2]octane | 1.5 mmol, 173 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | Tetrabutylammonium cyanide | 0.98 mmol, 236 mg | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
product | 9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine-6-carbonitrile | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)C#N | C18H8Cl3N5
